US07018988B2
(2S,4EZ)-N2-(2,1,3-benzothiadiazol-4-yl)-4-[(benzyloxy)imino]-N1-phenyl-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, isocyanatobenzene, and 2,1,3-benzothiadiazol-4-amine the title compound was obtained in 57% purity by LC/MS. MS(ESI+): m/z=487.4.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | isocyanatobenzene | N(=C=O)C1=CC=CC=C1 | C7H5NO
reactant | 2,1,3-benzothiadiazol-4-amine | N=1SN=C2C1C=CC=C2N | C6H5N3S
product | (2S,4EZ)-N2-(2,1,3-benzothiadiazol-4-yl)-4-[(benzyloxy)imino]-N1-phenyl-1,2-pyrrolidinedicarboxamide | N=1SN=C2C1C=CC=C2NC(=O)[C@H]2N(CC(C2)=NOCC2=CC=CC=C2)C(=O)NC2=CC=CC=C2 | C25H22N6O3S
